US04042603
By treating 4,4'-dimethyldiphenyl ether under the same reaction conditions as in Example 2 except that acetylacetone was not added, 1.3 g (6.8 m. moles) of 2.8-dimethyldibenzofuran was obtained and 0.36 g (0.9 m. mole) of the dimer also obtained.

reactant | 4,4'-dimethyldiphenyl ether | CC1=CC=C(C=C1)OC2=CC=C(C=C2)C | C14H14O
reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
product | 2.8-dimethyldibenzofuran | 1.3 g | CC1=CC2=C(OC3=C2C=C(C=C3)C)C=C1 | C14H12O
